Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Crestor
 
Attending: ___.
 
Chief Complaint:
attempt at pacemaker /AVJ ablation one month ago at ___ which 
failed d/t difficult anatomy.  
 
Major Surgical or Invasive Procedure:
AVJ ablation and dual chamber pacemaker ___

 
History of Present Illness:
Ms. ___ is a ___ -year old woman who presents with CAD s/p MI 
and s/p 2.5*22 resolute to large D1 (post to 3.0) by Dr. ___ 
___ ___, iCM ___, LVEF 35-45%, permanent atrial 
fibrillation with RVR- on Eliquis, CKD IIIb, PVD, PE, 
acromegally. Has had frequent admissions for CHF. Had attempt at 
pacemaker /AVJ ablation one month ago at ___ which failed d/t 
difficult anatomy. 

Admitted to ___ on ___ with presyncope. Was transferred to 
___ for repeat attempt at AVJ/PPM ablation. Went to EP lab, 
unsuccessful procedure (AVJ ablation) and now s/p ___ 
dual-chamber PPM with HBE and RV lead. Now back in ___. Labs were 
significant for WBC 5.6, HGB 11.4, PLT 207, K 4, Cr 1.1, Alb 
2.9,

Beyond issues noted above, Ms. ___ denies any worsening 
dyspnea, palpitations, syncope, claudication-type symptoms or 
transient neurologic issues. All other ROS negative.
 
Past Medical History:
Atrial fibrillation on Eliquis
Anxiety
CKD
Chronic systolic HF- s/p admission for CHF ___. Echo LVEF
35-40% with fixed LAD territory defect, large LA, moderate TR
Prior MI/CAD s/p PCI
Acromegaly/ History of pituitary adenoma s/p transphenoidal
resection
External iliac occlusion
History of PE/DVT
Hypertension
Hip replacement
Subtotal colectomy
 
Social History:
___
Family History:
patient's father died of prostate cancer. No family history of 
early MI, arrhythmia, cardiomyopathies, or sudden cardiac death; 
otherwise non-contributory.
 
Physical Exam:
VS: 115-128/79-/91, P 86-106, RR 20, 93%RA
Labs: creatinine 1.2 (baseline has ranged 1.12-1.66 per Atrius 
records)

Gen: Appears comfortable. Mood and affect appropriate.
Neck: JVP 7 cm. No carotid bruits.
CV: Regular rhythm, normal S1 and normally-split S2. No S3/4 or 
pathological murmurs.
Resp: Clear lungs
Abd: Soft, nontender abdomen without hepatomegaly.
Ext: No pedal edema. Symmetric pedal pulses. No open foot ulcers 
or venous stasis changes.

 
Pertinent Results:
EP report: ___
Findings
___ yo WF with permanent AF, difficult to control ventricular 
rate, CAD, CHF, referred for AVJ ablation/ CRT-P.
Left subclavian access. Multiple attempts to engage CS for LV 
lead placement unsuccessful. His bundle pacing lead implanted as 
the bailout strategy with excellent electrical resynchronization 
(non-selective HB pacing, QRS duration 110 ms). Due to planning 
of AVJ ablation a backup lead implanted in the RV septum. HB 
lead connected to the A and R V lead to the V port of MRI 
compatible ___ ___ Advisa). AVJ ablation perfomed using 4 
mm tip EPT catheter. Single ablation x2 min in the area 1 
cmproximal to HB lead resulted in complete cessation of native 
AV conduction. ___ programmed in DDD R mode 80-110/min. AV 
conduction restored 1 hr after the procedure.
Chest xray ___
EXAMINATION:  CHEST (PA AND LAT)
 
INDICATION:  ___ year old woman with CAF S/P implantation of 
dual-chamber
pacemaker with a his bundle and RV electrodes.// leads position 
?     leads
position ?
 
IMPRESSION: 
 
Comparison to ___.  The patient has received a left 
pectoral
pacemaker.  1 lead projects over the right ventricle and 1 over 
the right
atrium.  No pneumothorax or other complication.  New small right 
pleural
effusion, better visualized on the lateral than on the frontal 
view.  No
pulmonary edema.  Stable moderate cardiomegaly.
 

___ 07:20AM BLOOD Creat-1.2*
 
Brief Hospital Course:
Ms. ___ is a ___ -year old woman who presents with CAD s/p MI 
and s/p 2.5*22 resolute to large D1 (post to 3.0) by Dr. ___ 
___ ___, iCM ___, LVEF 35-45%, permanent atrial 
fibrillation with RVR s/p failed AVJ ablation.

pAF - s/p failed AVJ ablation x2 given difficult anatomy. Now 
PPM and AF with RVR.
- resumed all home meds (except apixiban)
- hold Apixiban until ___
- Keflex ___ QID for 3 days
- follow-up with Dr. ___

___ LVEF 40% - Euvolemic, stable. Cont home meds.

CAD s/p DES ___ - Cont ASA, BB and statin.

CKD - renally dose meds; stable at 1.2
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Torsemide 20 mg PO DAILY:PRN weight gain 
2. Metoprolol Succinate XL 100 mg PO BID 
3. Atorvastatin 20 mg PO QPM 
4. Apixaban 5 mg PO BID 
5. Sertraline 100 mg PO DAILY 
6. Calcitriol 0.25 mcg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Digoxin 0.125 mg PO DAILY 
10. Lisinopril 2.5 mg PO DAILY 
11. Nicotine Patch Dose is Unknown  TD DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q8H Duration: 3 Days  
2.  Nicotine Patch 1 patch TD DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Calcitriol 0.25 mcg PO DAILY  
6.  Digoxin 0.125 mg PO DAILY  
7.  Lisinopril 2.5 mg PO DAILY  
8.  Metoprolol Succinate XL 100 mg PO BID  
9.  Sertraline 100 mg PO DAILY  
10.  Torsemide 20 mg PO DAILY:PRN weight gain  
11.  Vitamin D 1000 UNIT PO DAILY  
12. HELD- Apixaban 5 mg PO BID  This medication was held. Do not 
restart Apixaban until ___ NIGHT

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
atrial fibrillation
chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You had an atrio-ventricular junction ablation and implantation 
of a ___ dual-chamber pacemaker. The ablation procedure 
and the pacemaker implant were both uncomplicated however the 
ablation did not work post procedure. Dr. ___ wants to see 
you back in his office to further evaluate whether they will 
proceed with a future ablation. 

Continue your current medications with the following changes:
-HOLD eliquis until ___ night
-start keflex ___ every 8 hours for 3 days

You will need to follow up in the ___ device clinic in 1 
week. They should be calling you for a follow up appointment for 
that. If you don't hhear bby ___, please call Dr. ___ 
___. You can also see when you will be seen for the follow up 
visit for the ablation will be.

I added to your worksheet any upcoming appointments scheduled 
here at ___ which are unrelated to cardiology.

 
Followup Instructions:
___